US07465731B2
A mixture of tert-butyl (3R)-3-{[3-chloro-5-(hydroxymethyl)-2-pyridinyl]amino}-1-pyrrolidinecarboxylate (0.95 g) and MnO2 (3.02 g) in AcOEt (30 ml) was refluxed under stirring for 1.5 hours. After removal of the insoluble material, and the solvent was evaporated in vacuo to give tert-butyl (3R)-3-[(3-chloro-5-formyl-2-pyridinyl)amino]-1-pyrrolidinecarboxylate (0.95 g).

reactant | tert-butyl (3R)-3-{[3-chloro-5-(hydroxymethyl)-2-pyridinyl]amino}-1-pyrrolidinecarboxylate | 0.95 g | ClC=1C(=NC=C(C1)CO)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C15H22ClN3O3
solvent | AcOEt | 30 ml | CCOC(=O)C | C4H8O2
catalyst | MnO2 | 3.02 g | O=[Mn]=O
product | tert-butyl (3R)-3-[(3-chloro-5-formyl-2-pyridinyl)amino]-1-pyrrolidinecarboxylate | 0.95 g | ClC=1C(=NC=C(C1)C=O)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C15H20ClN3O3
